US05594023
A) tert-Butyl 4-[3-amino-5-chloro-3-(2-chlorophenyl)-2,3-dihydro-2-oxoindol-1-yl]methylbenzoate
This compound is prepared according to the procedure described in EXAMPLE 89 from 1.0 g of 3-amino-5-chloro-3-(2-chlorophenyl)-1,3-dihydroindol-2-one and 1.01 g of tert-butyl 4-bromomethylbenzoate. Chromatography on silica using DCM and then a DCM/AcOEt mixture (95/5; v/v) as the eluent gives 0.98 g of the expected product, which is used as such in the next step.

reactant | 3-amino-5-chloro-3-(2-chlorophenyl)-1,3-dihydroindol-2-one | 1.0 g | NC1(C(NC2=CC=C(C=C12)Cl)=O)C1=C(C=CC=C1)Cl | C14H10Cl2N2O
reactant | tert-butyl 4-bromomethylbenzoate | 1.01 g | BrCC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C12H15BrO2
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM AcOEt | C(Cl)Cl.CCOC(=O)C
product | tert-Butyl 4-[3-amino-5-chloro-3-(2-chlorophenyl)-2,3-dihydro-2-oxoindol-1-yl]methylbenzoate | 0.98 g | NC1(C(N(C2=CC=C(C=C12)Cl)CC1=CC=C(C(=O)OC(C)(C)C)C=C1)=O)C1=C(C=CC=C1)Cl | C26H24Cl2N2O3
